US05958910
A mixture of 3.0 g of 4-(3-benzyloxy-phenyl)-thiazol-2-ylamine hydrobromide with 1.8 g of p-toluenesulfonyl chloride was stirred for 2 hours with 12 ml of pyridine. The resulting, red colored suspension was poured into 100 ml of 2N hydrochloric acid and the mixture was extracted with ethyl acetate. The organic phase was dried with magnesium sulphate and concentrated. The residue was dissolved in a mixture of 120 ml of ethanol and 120 ml of 2N sodium hydroxide solution. After the addition of 2.4 g of active charcoal the mixture was stirred at room temperature for 30 minutes and subsequently the active charcoal was filtered off. After neutralization with concentrated hydrochloric acid the mixture was concentrated and the aqueous residue was extracted twice with ethyl acetate. The organic phases were combined, dried with magnesium sulphate and freed from solvent. The residue was chromatographed on 300 g of Kieselgel 60 with ethyl acetate/hexane (1:2) as the eluent. The product-containing fractions were concentrated and yielded 2.2 g of N-[4-(3-benzyloxy-phenyl)-thiazol-2-yl]-4-methyl-benzenesulfonamide as a colorless, amorphous solid.

reactant | 4-(3-benzyloxy-phenyl)-thiazol-2-ylamine hydrobromide | 3.0 g | Br.C(C1=CC=CC=C1)OC=1C=C(C=CC1)C=1N=C(SC1)N
reactant | p-toluenesulfonyl chloride | 1.8 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | hydrochloric acid | 2N, 100 ml | Cl | ClH
solvent | pyridine | 12 ml | N1=CC=CC=C1 | C5H5N
product | N-[4-(3-benzyloxy-phenyl)-thiazol-2-yl]-4-methyl-benzenesulfonamide | 2.2 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C=1N=C(SC1)NS(=O)(=O)C1=CC=C(C=C1)C | C23H20N2O3S2
